US05082838
2-Chloromethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]-pyrimidine-5,7(6H)-dione
Thionyl chloride (0.61 ml)was added dropwise to a solution of 2-hydroxymethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione (1 g) in methylene chloride (15 ml) with stirring at room temperature, and the solution was refluxed for 16 hours. The solution was concentrated to dryness, and the resulting residue was purified by column chromatography on silica gel. The resulting crude crystals were recrystalized from methylene chloride-isopropyl ether to give colorless crystals (0.9 g, 84%).

reactant | Thionyl chloride | 0.61 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-hydroxymethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]pyrimidine-5,7(6H)-dione | 1 g | OCC1CN2C(N(C(C=C2S1)=O)CCC)=O | C10H14N2O3S
solvent | methylene chloride | 15 ml | C(Cl)Cl | CH2Cl2
product | 2-Chloromethyl-6-propyl-2,3-dihydro-5H-thiazolo[3,2-c]-pyrimidine-5,7(6H)-dione | 0.9 g, 84% | ClCC1CN2C(N(C(C=C2S1)=O)CCC)=O | C10H13ClN2O2S
